US06982348B2
N-((1RS,2SR)-1-((4-fluorophenyl)methyl)-2-hydroxy-2-(4-(trifluoromethyl)phenyl)ethyl)-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-3-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-1-propanol (450 mg, 1.44 mmol) in ethyl acetate (15 ml) were added 1-naphthoyl chloride (282 ml, 1.87 mmol) and saturated aqueous sodium hydrogen carbonate (15 ml), and the mixture was stirred at room temperature for 2 hrs. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the title compound (614 mg, 91%).

reactant | (1RS,2SR)-2-amino-3-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-1-propanol | 1.44 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)F | C16H15F4NO
reactant | 1-naphthoyl chloride | 1.87 mmol, 282 ml | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-1-((4-fluorophenyl)methyl)-2-hydroxy-2-(4-(trifluoromethyl)phenyl)ethyl)-1-naphthalenecarboxamide | 614 mg, 91% | FC1=CC=C(C=C1)CC(C(C1=CC=C(C=C1)C(F)(F)F)O)NC(=O)C1=CC=CC2=CC=CC=C12 | C27H21F4NO2
